US05973063
EXAMPLE 3: SYNTHESIS OF AN EXAMPLE OF AN INVENTIVE POLYURETHANE
A blend of 3350 and 8000 molecular weight poly(ethylene glycols)--3500 and 8000 molecular weights--was made up to give an average molecular weight of 3440 g/mol. 1300 g of this blend was placed in a 1 gallon Sigma mixer and dewatered under vacuum for 3 hours. The vacuum is released, the temperature brought to 75° C., and the reactor contents placed under a nitrogen blanket. 105.97 g of VESTANAT TMDI (Huls America Inc.) was added to the reactor and allowed to mix for 2 minutes 2.30 g dibutyltin dilaurate catalyst is added and the reaction allowed to take place for 30 minutes. A branched alcohol, 75.08g Isofol 20 (CONDEA Vista Co., total carbon content of 20, i.e. C20) used as a cap was added and allowed to react for 30 minutes. The molten polymer was then discharged to a butyl Carbitol/water solution to give a final product of 25% polymer/18.5% butyl Carbitol/56.5% water. The polyurethane obtained was designated Compound 1.

reactant | TMDI | 105.97 g | CC1=NN(C=C1)C(=O)NCCCCNC(=O)N2C=CC(=N2)C | C14H20N6O2
reactant | Isofol 20 | 75.08g | CCCCCCCCCCC(CCCCCCCC)CO | C20H42O
reactant | butyl Carbitol water | CCCCOCCOCCO.O
catalyst | dibutyltin dilaurate | 2.30 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | butyl Carbitol | CCCCOCCOCCO | C8H18O3
